US04558155
2-(4-Acetylphenoxy)-N-(1-methylethyl)ethanamine
4-Hydroxyphenylmethyl ketone is reacted with 1,2-dibromoethane in the presence of base. The product of that reaction, 2-bromoethyl-4-acetylphenyl ether is then reacted with isopropylamine as in Preparation 1 to give the title compound.

reactant | 4-Hydroxyphenylmethyl ketone | OC1=CC=C(C=C1)CC(=O)CC1=CC=C(C=C1)O | C15H14O3
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 2-bromoethyl-4-acetylphenyl ether | BrCCC1=C(C=CC(=C1)C(C)=O)OC1=C(C=C(C=C1)C(C)=O)CCBr | C20H20Br2O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-(4-Acetylphenoxy)-N-(1-methylethyl)ethanamine | C(C)(=O)C1=CC=C(OCCNC(C)C)C=C1 | C13H19NO2
